US07320992B2
7-Bromo-2-(4-t-butyl-phenyl)-2,3-dihydro-isoindol-1-one (0.14 g), 4-vinylpyridine (0.55 mL), Pd(OAc)2 (1.2 mg), tri-o-tolylphosphine (27.3 mg), and 2 mL of Et3N were added into a microwave reaction tube and subjected to 120° C., 10 min of microwave (2×). H2O and CHCl3 were added and the layers were separated. The aqueous phase was extracted with CHCl3 (3×). The combined organic phases were washed with H2O, dried over Na2SO4, filtered, then evaporated in vacuo to yield a light brown residue as crude product. The crude was purified by silica gel chromatography (25 g, 10-50% EtOAc/hexanes) to afford 2-(4-t-butylphenyl)-7-(2-pyridin-4-yl-vinyl)-2,3-dihydro-isoindol-1-one as an off-white solid:

reactant | 7-Bromo-2-(4-t-butyl-phenyl)-2,3-dihydro-isoindol-1-one | 0.14 g | BrC=1C=CC=C2CN(C(C12)=O)C1=CC=C(C=C1)C(C)(C)C | C18H18BrNO
reactant | 4-vinylpyridine | 0.55 mL | C(=C)C1=CC=NC=C1 | C7H7N
reactant | tri-o-tolylphosphine | 27.3 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Et3N | 2 mL | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 1.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | 2-(4-t-butylphenyl)-7-(2-pyridin-4-yl-vinyl)-2,3-dihydro-isoindol-1-one | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=C(C=CC=C2C1)C=CC1=CC=NC=C1)=O | C25H24N2O
